US05700836
83 ml of hexylbenzene were treated with 1.8 g of aluminum chloride while cooling with ice. After brief stirring a solution of 40 g of 2,5-dichloro-2,5-dimethyl-hexane in 300 ml of carbon disulphide was added dropwise and the mixture was stirred at 0° C. for a further 2 hours. The reaction mixture was poured into ice/6N hydrochloric acid, extracted with ethyl acetate, dried over sodium sulphate and evaporated. The crude product was distilled in a high vacuum. There were obtained 25.5 g of 1,1,4,4-tetramethyl-6-hexyl-1,2,3,4-tetrahydro-naphthalene as a colourless oil, boiling point 141°-152° C./0.8 mm.

reactant | hexylbenzene | 83 ml | C(CCCCC)C1=CC=CC=C1 | C12H18
reactant | aluminum chloride | 1.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichloro-2,5-dimethyl-hexane | 40 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | carbon disulphide | 300 ml | C(=S)=S | CS2
product | 1,1,4,4-tetramethyl-6-hexyl-1,2,3,4-tetrahydro-naphthalene | 25.5 g | CC1(CCC(C2=CC(=CC=C12)CCCCCC)(C)C)C | C20H32
